US07858621B2
3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid methyl ester (200 mg, 0.753 mmol) was reacted with 0.5N-LiOH (2 eq) to give 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid (189 mg, 99%).

reactant | 3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid methyl ester | 0.753 mmol, 200 mg | COC(C=CC=1C(=NC(=CC1)C(F)(F)F)Cl)=O | C10H7ClF3NO2
reactant | LiOH | 2 eq | [Li+].[OH-]
product | 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid | 189 mg, 99% | ClC1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C9H5ClF3NO2
